US07544697B2
A modification of the method described in Part E of Examples 1-4 was used to treat 1-ethyl-5-(4-hydroxybutyl)-1H-pyrazole-3-carboxamide (18.2 g, 86.1 mmol) with phosphorous oxychloride (60 mL). The reaction was heated for three hours before cooling to 0° C. and pouring into ice water. The mixture was adjusted to pH 12 with the addition of 2 N aqueous sodium carbonate and extracted with chloroform. The combined extracts were passed through a layer of silica gel (eluting first with chloroform and then with 1:1 hexane/ethyl acetate to provide 10.8 g of 5-(4-chlorobutyl)-1-ethyl-1H-pyrazole-3-carbonitrile as a dark oil.

reactant | 1-ethyl-5-(4-hydroxybutyl)-1H-pyrazole-3-carboxamide | 86.1 mmol, 18.2 g | C(C)N1N=C(C=C1CCCCO)C(=O)N | C10H17N3O2
reactant | sodium carbonate | 2 N | C([O-])([O-])=O.[Na+].[Na+]
reactant | phosphorous oxychloride | 60 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-(4-chlorobutyl)-1-ethyl-1H-pyrazole-3-carbonitrile | 10.8 g | ClCCCCC1=CC(=NN1CC)C#N | C10H14ClN3
